US07514460B2
N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)-benzothiazol-6-yl]-4-methoxybenzamide was prepared from p-anisoyl chloride (16 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 46 mg, 94 μmol, 83%). LC/ESI-MS: m/z=488 [M+H]+; m/z=486 [M−H]−; R′, =3.17 min.

reactant | p-anisoyl chloride | 0.113 mmol, 16 μL | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)-benzothiazol-6-yl]-4-methoxybenzamide | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)OC)=O | C25H21N5O4S
